US07807720B2
[3-(4-Fluoro-phenyl)-propyl]-carbamic acid tert-butyl ester (A6)
To a solution of 3-(4-fluoro-phenyl)-propylamine (0.300 g, 1.958 mmol) and di-tert-butyl dicarbonate (0.641 g, 2.938 mmol) in 8 mL of dioxane, was added 5 mL of saturated aqueous NaHCO3 solution. After stirring at room temperature for 64 h, the reaction mixture was diluted with 50 mL of water and extracted with dichloromethane (50 mL×3). The combined organic extracts were dried, filtered. Removal of the solvent under reduced pressure provided the title compound as a white solid (0.525 g, >99% yield), which was used directly in the next step without further purification. GC-MS: tR=8.9 min; m/z 253 (M+).

reactant | 3-(4-fluoro-phenyl)-propylamine | 1.958 mmol, 0.300 g | FC1=CC=C(C=C1)CCCN | C9H12FN
reactant | di-tert-butyl dicarbonate | 2.938 mmol, 0.641 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | NaHCO3 | 5 mL | C(=O)(O)[O-].[Na+]
solvent | dioxane | 8 mL | O1CCOCC1 | C4H8O2
solvent | water | 50 mL | O | H2O
product | [3-(4-Fluoro-phenyl)-propyl]-carbamic acid tert-butyl ester | 0.525 g, >99% yield | C(C)(C)(C)OC(NCCCC1=CC=C(C=C1)F)=O | C14H20FNO2
